US08937184B2
Part A: Ethyl 2-methyl-1-phenyl-1H-imidazole-4-carboxylate (4.8 gram, 21% yield) was prepared according to the procedure described (in J. Heterocyclic Chem. 1987, 24, 1757-1763) from ethyl 3-anilino-2-nitro-acrylate (23.6 gram, 0.01 mol) and triethylorthoacetate (150 ml). The initially formed crude product was purified by flash chromatography (eluent: diethyl ether). Rf (diethylether˜0.15) to give pure ethyl 2-methyl-1-phenyl-1H-imidazole-4-carboxylate as an oil.

reactant | ethyl 3-anilino-2-nitro-acrylate | 0.01 mol, 23.6 gram | N(C1=CC=CC=C1)C=C(C(=O)OCC)[N+](=O)[O-] | C11H12N2O4
reactant | triethylorthoacetate | 150 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
product | ethyl 2-methyl-1-phenyl-1H-imidazole-4-carboxylate | CC=1N(C=C(N1)C(=O)OCC)C1=CC=CC=C1 | C13H14N2O2
